US06458796B1
3-[1-(1-Hydroxy-ethyl)-4-phenyl-butyl]-5-[4-(morpholine-4-sulphonyl)-benzyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example 29, the title compound is prepared from 10 mg (0.024 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide and 30 mg (0.107 mmol) of methyl 4-morpholinosulphonylphenylacetate.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide | 0.024 mmol, 10 mg | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C15H21N5O2
reactant | methyl 4-morpholinosulphonylphenylacetate | 0.107 mmol, 30 mg | O1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)CC(=O)OC | C13H17NO5S
product | 3-[1-(1-Hydroxy-ethyl)-4-phenyl-butyl]-5-[4-(morpholine-4-sulphonyl)-benzyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | OC(C)C(CCCC1=CC=CC=C1)N1N=NC2=C1N=C(NC2=O)CC2=CC=C(C=C2)S(=O)(=O)N2CCOCC2 | C27H32N6O5S
